US05962458
Sodium hydride (0.95 g of a 50% suspension in mineral oil, 20 mmol) was added to a solution of 2-mercapto-1-methylimidazole (2.26 g, 19 mmol) in DMF (100 ml) and the mixture stirred for 30 minutes. 2-(3-Bromopropoxy)tetrahydropyran (5.0 g, 22.5 mmol), (J. Chem. Soc. 1963, 3440), was added and the mixture heated at 100° C. for 3 hours and then stirred at ambient temperature for 18 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol mixtures (100/0 increasing to 97/3) to give 1-methyl-2-(3-(2-tetrahydropyranyloxy)propylthio)imidazole (2.5 g, 55%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-mercapto-1-methylimidazole | 19 mmol, 2.26 g | SC=1N(C=CN1)C | C4H6N2S
reactant | 2-(3-Bromopropoxy)tetrahydropyran | 22.5 mmol, 5.0 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-methyl-2-(3-(2-tetrahydropyranyloxy)propylthio)imidazole | 2.5 g, 55% | CN1C(=NC=C1)SCCCOC1OCCCC1 | C12H20N2O2S
